US08168665B2
2-(4-Fluoro-phenyl)-1H-benzoimidazole-5-carbonitrile (starting compound)
Sodium metabisulfite (1.66 g, 8.73 mmol) in 10 ml of water was added to 4-fluoro-benzaldehyde (1.86 g, 15 mmol) in 50 ml of ethanol under argon. The mixture was stored at 0-5° C. overnight and the solid filtered, washed with ethanol and dried. The solid and 3,4-diamino-benzonitrile (2.0 g, 15 mmol) were heated in 7 ml of DMF at 130° C. for 4 hours. After cooling, the mixture was poured into water, the solid filtered and purified by preparative HPLC (RP18, acetonitrile/water 0.1% TFA) to yield 2.49 g (70%) of the desired product. MS (mass spectrum): m/e=238.02 (M+H+).

reactant | Sodium metabisulfite | 8.73 mmol, 1.66 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 4-fluoro-benzaldehyde | 15 mmol, 1.86 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 3,4-diamino-benzonitrile | 15 mmol, 2.0 g | NC=1C=C(C#N)C=CC1N | C7H7N3
solvent | water | 10 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | 2-(4-Fluoro-phenyl)-1H-benzoimidazole-5-carbonitrile | 2.49 g, 70% | FC1=CC=C(C=C1)C1=NC2=C(N1)C=CC(=C2)C#N | C14H8FN3
